US06444696B1
Lithium diisopropylarmide (18.8 ml, 37 mmol, 2.0 M solution in heptane/tetrahydrofuran/ethylbenzene) was added dropwise to a solution of acetonitrile (1.58 g, 37 mmol) in dry tetrahydrofuran (50 ml) at −78° C. After stirring the reaction mixture for 30 min., a solution of methyl 3-(2-morpholin-4-ylethoxy)benzoate in dry tetrahydrofuran (50 ml) was added dropwise over 10 min. After 15 min., water was added and the reaction mixture was allowed to warm to room temperature. The aqueous layer was separated and acidified with dilute hydrochloric acid to pH 7. The product was extracted into ethyl acetate and washed with water and brine and dried over magnesium sulfate. The organics were removed in vacuo to give 2-[3-(2-morpholin-4-ylethoxy)phenyl]acetonitrile (5.0 g) as an oil which was used in the next step without further purification.

reactant | Lithium | [Li] | Li
reactant | acetonitrile | 37 mmol, 1.58 g | C(C)#N | C2H3N
reactant | methyl 3-(2-morpholin-4-ylethoxy)benzoate | N1(CCOCC1)CCOC=1C=C(C(=O)OC)C=CC1 | C14H19NO4
reactant | water | O | H2O
solvent | heptane tetrahydrofuran ethylbenzene | CCCCCCC.O1CCCC1.C(C)C1=CC=CC=C1
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-[3-(2-morpholin-4-ylethoxy)phenyl]acetonitrile | 5.0 g | N1(CCOCC1)CCOC=1C=C(C=CC1)CC#N | C14H18N2O2
